US04016209
3-[N'-(3-Chloropropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium Iodide
To a stirred solution of 216.2 mg. (1 mmole) of N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide in 1.5 ml. of acetonitrile is added a solution of 205 mg. (1 mmole) of 3-iodo-1-chloropropane in 0.5 ml. of acetonitrile. The mixture is stirred at room temperature for 2.0 hours and the insoluble N,N,N-trimethyl-[3-methylamino)]-1-propanaminium bromide hydrobromide is removed by filtration. The filtrate is evaporated and the solid residue obtained is extracted with methylene chloride. The methylene chloride extract is evaporated to give the oily product which is recrystallized from isopropanol-ether to afford 90 mg. (52%) of product; m.p. 93° (dec.); NMR δ: 2.2 (3H, S, --NCH3); 3.46 (9H, S, --+NMe3).

reactant | N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide | 1 mmole | [Br-].C[N+](CCCNC)(C)C
reactant | 3-iodo-1-chloropropane | 1 mmole | ICCCCl | C3H6ClI
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[N'-(3-Chloropropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium Iodide | [I-].ClCCCN(C)CCC[N+](C)(C)C | InChI=1S/C10H24ClN2.HI/c1-12(8-5-7-11)9-6-10-13(2,3)4;/h5-10H2,1-4H3;1H/q+1;/p-1
